US07388020B2
(i) 1-(Benzhydryloxy)-2-nitrobenzene
A mixture of o-nitrophenol (2.08 g, 15.0 mmol), 1-[bromo(phenyl)methyl]benzene (3.70 g, 15.0 mmol) and potassium carbonated (K2CO3) (4.14 g, 30.0 mmol) in acetone (60 mL) was kept at reflux temperature for 5 h. The reaction mixture was cooled to room temperature, concentrated in vacuo. The residue was partitioned between dichloromethane (CH2Cl2) and water (H2O), organic layer dried over sodium sulphate (Na2SO4), filtered, concentrated. The residue was purified by silica gel flash chromatography to give subtitled compound (1.81 g).

reactant | o-nitrophenol | 15.0 mmol, 2.08 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 1-[bromo(phenyl)methyl]benzene | 15.0 mmol, 3.70 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | potassium | [K] | K
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 1-(Benzhydryloxy)-2-nitrobenzene | 1.81 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C19H15NO3
